US08835470B2
(R/S)-2-Hydroxy-2-(4-(5-(5-phenyl-4-(trifluoromethyl)isoxazol-3-yl)-1,2,4-oxadiazol-3-yl)phenyl)acetic acid (Int-IX, 30 mg, 0.070 mmol), 3-(1H-imidazol-1-yl)propan-1-amine (13.06 mg, 0.104 mmol), HATU (34.4 mg, 0.090 mmol), and 4-methylmorpholine (28.1 mg, 0.278 mmol) were dissolved in DMF (1 mL). This was stirred for 1 h and then was purified by prep HPLC (PHENOMENEX® Luna 5u 21.2×100 mm, gradient elution with Method 1—MeOH/water containing 0.1% trifluoroacetic acid as defined above, 0% B to 100% B over 10 min, 20 mL/min, 220 nM, product retention=10.5 min) to provide (R/S)-N-(3-(1H-imidazol-1-yl)propyl)-2-hydroxy-2-(4-(5-(5-phenyl-4-(trifluoromethyl)isoxazol-3-yl)-1,2,4-oxadiazol-3-yl)phenyl)acetamide-TFA (20 mg, 0.029 mmol, 42.3% yield): LCMS=539.2 [M+H]+; 1H NMR (400 MHz, methanol-d4) δ ppm 8.90 (1 H, s), 8.13-8.19 (2 H, m), 7.52-7.83 (9 H, m), 5.16 (1 H, s), 4.23 (2 H, td, J=6.88, 3.41 Hz), 3.26-3.31 (2 H, m), 2.12 (2 H, dq, J=6.82, 6.68 Hz); HPLC peak RT=7.8 min (Method A).

reactant | (R/S)-2-Hydroxy-2-(4-(5-(5-phenyl-4-(trifluoromethyl)isoxazol-3-yl)-1,2,4-oxadiazol-3-yl)phenyl)acetic acid | 0.070 mmol, 30 mg | OC(C(=O)O)C1=CC=C(C=C1)C1=NOC(=N1)C1=NOC(=C1C(F)(F)F)C1=CC=CC=C1 | C20H12F3N3O5
reactant | 3-(1H-imidazol-1-yl)propan-1-amine | 0.104 mmol, 13.06 mg | N1(C=NC=C1)CCCN | C6H11N3
reactant | HATU | 0.090 mmol, 34.4 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | 4-methylmorpholine | 0.278 mmol, 28.1 mg | CN1CCOCC1 | C5H11NO
reactant | DMF | 1 mL | CN(C)C=O | C3H7NO
product | (R/S)-N-(3-(1H-imidazol-1-yl)propyl)-2-hydroxy-2-(4-(5-(5-phenyl-4-(trifluoromethyl)isoxazol-3-yl)-1,2,4-oxadiazol-3-yl)phenyl)acetamide TFA | 0.029 mmol, 20 mg, 42.3% yield | N1(C=NC=C1)CCCNC(C(C1=CC=C(C=C1)C1=NOC(=N1)C1=NOC(=C1C(F)(F)F)C1=CC=CC=C1)O)=O.C(=O)(C(F)(F)F)O | InChI=1S/C26H21F3N6O4.C2HF3O2/c27-26(28,29)19-20(33-38-22(19)17-5-2-1-3-6-17)25-32-23(34-39-25)18-9-7-16(8-10-18)21(36)24(37)31-11-4-13-35-14-12-30-15-35;3-2(4,5)1(6)7/h1-3,5-10,12,14-15,21,36H,4,11,13H2,(H,31,37);(H,6,7)
